US09024093B2
Synthesis of tributyl(4-fluorophenyl)stannane (S5)
To 1-bromo-4-fluorobenzene (1.75 g, 10.0 mmol, 1.00 equiv) in Et2O (25 mL) at −78° C. was added tBuLi (1.7 M in pentane, 11.8 mL, 20 mmol, 2.0 equiv). The reaction mixture was stirred at −78° C. for 30 min before the addition of nBu3SnCl (3.26 g, 10.0 mmol, 1.00 equiv). The reaction mixture was warmed to 23° C. and stirred for 1.0 hr before being filtered through a plug of neutral alumina. The filtrate was concentrated in vacuo to afford 3.76 g of the title compound as a colorless oil (98% yield).

reactant | 1-bromo-4-fluorobenzene | 10.0 mmol, 1.75 g, 1.00 equiv | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | tBuLi | 20 mmol, 1.7 M, 11.8 mL, 2.0 equiv | [Li]C(C)(C)C
reactant | nBu3SnCl | 10.0 mmol, 3.26 g, 1.00 equiv | [Sn](CCCC)(CCCC)(CCCC)Cl
solvent | Et2O | 25 mL | CCOCC | C4H10O
product | tributyl(4-fluorophenyl)stannane | 3.76 g, 98% yield | C(CCC)[Sn](C1=CC=C(C=C1)F)(CCCC)CCCC | InChI=1S/C6H4F.3C4H9.Sn/c7-6-4-2-1-3-5-6;3*1-3-4-2;/h2-5H;3*1,3-4H2,2H3;
